US04588738
A solution of 2,5,7-tribromo-3,4-dihydro-1(2H)-naphthalenone (1 g), imidazole (0.7 g), and N,N-dimethylformamide (15 ml) was stirred at room temperature for 5 hours. The solvent was evaporated under reduced pressure and the residue, taken up with CH2Cl2 (20 ml), washed with H2O, was extracted with a solution of 8% HCl. The acid solution, neutralized with NaHCO3, extracted with CH2Cl2, dried and evaporated, gave 0.6 g of 2-(1-imidazolyl)-3,4-dihydro-5,7-dibromo-1(2H)-naphthalenone;

reactant | 2,5,7-tribromo-3,4-dihydro-1(2H)-naphthalenone | 1 g | BrC1C(C2=CC(=CC(=C2CC1)Br)Br)=O | C10H7Br3O
reactant | imidazole | 0.7 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-(1-imidazolyl)-3,4-dihydro-5,7-dibromo-1(2H)-naphthalenone | 0.6 g | N1(C=NC=C1)C1C(C2=CC(=CC(=C2CC1)Br)Br)=O | C13H10Br2N2O
